datasets/RMG-dataset.csv
rxn,Ea
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[C:15]([c:16]1[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]1[H:28])([H:22])[H:23]>>[C:0]([C:1]1=[C:2]([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]([H:13])[C:6]1([H:14])[C:15]([c:16]1[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]1[H:28])([H:22])[H:23])([H:7])([H:8])[H:9],47.3967
[C:0](#[C:1][C:2](=[C:3]=[C:4]([H:7])[H:8])[H:6])[H:5].[C:9]([C:10]([C:11]([H:16])([H:17])[H:18])[C:12]([H:19])([H:20])[H:21])([H:13])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]=[C:4]([H:7])[H:8])([H:6])[C:10]([C:9]([H:13])([H:14])[H:15])([C:11]([H:16])([H:17])[H:18])[C:12]([H:19])([H:20])[H:21])[H:5],16.2339
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14]([C:15](=[C:16]([c:17]1[c:18]([H:28])[c:19]([H:29])[c:20]([H:30])[c:21]([H:31])[c:22]1[H:32])[H:27])[H:26])([H:23])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[C:16]([C:15]([C:14]([H:23])([H:24])[H:25])[H:26])([c:17]1[c:18]([H:28])[c:19]([H:29])[c:20]([H:30])[c:21]([H:31])[c:22]1[H:32])[H:27])[H:7])([H:5])[H:6],55.6472
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7]([C:8]([H:13])([H:14])[H:15])[H:12])([H:9])([H:10])[H:11]>>[C:0]([O:1][C:7]([C:6]([H:9])([H:10])[H:11])([C:8]([H:13])([H:14])[H:15])[H:12])([H:2])([H:3])[H:4].[H:5],172.031
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([C:8](=[C:9]([H:21])[H:22])[H:20])[H:19])[H:18])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]([H:18])[C:7]1([C:8](=[C:9]([H:21])[H:22])[H:20])[H:19])[H:10],59.4546
[H:0].[S:1][H:2]>>[H:0][S:1][H:2],-0.33472
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9](=[C:10]([C:11]([S:12][H:17])[H:16])[H:15])([H:13])[H:14]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][C:11]([C:10](=[C:9]([H:13])[H:14])[H:15])([S:12][H:17])[H:16],129.286
[C:0]([C:1]=[N:2][H:6])([H:3])([H:4])[H:5].[O:7][H:8]>>[C:0]([C:1]#[N:2])([H:3])([H:4])[H:5].[H:6][O:7][H:8],-4.987328
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([C:6](=[C:7]([H:19])[H:20])[H:18])=[C:8]([C:9]([H:21])([H:22])[H:23])[C:10](=[C:11]([H:25])[H:26])[H:24])([H:16])[H:17])[H:12]>>[C:0](#[C:1][C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])([H:17])[C:5]([C:6](=[C:7]([H:19])[H:20])[H:18])[C:8]1([C:9]([H:21])([H:22])[H:23])[C:10](=[C:11]([H:25])[H:26])[H:24])[H:12],156.231
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([H:18])([H:19])[H:20]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:6])[H:7].[H:5][C:17]([H:18])([H:19])[H:20],29.932336
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[O:4][O:5])([H:6])([H:7])[H:8].[O:15]([O:16][H:18])[H:17]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[O:4][O:5][H:17])([H:6])([H:7])[H:8].[O:15][O:16][H:18],41.84
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([C:9](=[C:10]([C:11]([H:27])([H:28])[H:29])[c:12]1[c:13]([H:30])[c:14]([H:31])[c:15]([H:32])[c:16]([H:33])[c:17]1[H:34])[c:18]1[c:19]([H:35])[c:20]([H:36])[c:21]([H:37])[c:22]([H:38])[c:23]1[H:39])([H:24])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[C:9]([C:8]([H:24])([H:25])[H:26])([C:10]([C:11]([H:27])([H:28])[H:29])[c:12]1[c:13]([H:30])[c:14]([H:31])[c:15]([H:32])[c:16]([H:33])[c:17]1[H:34])[c:18]1[c:19]([H:35])[c:20]([H:36])[c:21]([H:37])[c:22]([H:38])[c:23]1[H:39])([H:3])[H:4],17.4891
[C:0](=[N:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[O:8][H:9]>>[C:0](=[N:1][C:2]([H:5])([H:6])[H:7])[H:4].[H:3][O:8][H:9],1.912088
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])=[C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:15])([H:13])[H:14].[C:27](=[C:28]([H:30])[H:31])[H:29]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])([C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[C:27](=[C:28]([H:30])[H:31])[H:29])[H:15])([H:13])[H:14],11.8826
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:17])[H:13])([H:11])[H:12].[C:23]([C:24]([H:27])([H:28])[H:29])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:17])[C:23]([C:24]([H:27])([H:28])[H:29])([H:25])[H:26])[H:13])([H:11])[H:12],25.9408
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:4])([H:5])[H:6].[C:13]([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:5])[H:6].[H:4][C:13]([H:14])([H:15])[H:16],0.0
